US09233946B2
N-[3-(1H-Tetrazol-5-yl)phenyl]biphenyl-3-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting from 3-phenylbenzenesulfonylchloride (14 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8 mg, 0.05 mmol) giving 5.7 mg (30%) of the title compound. 1H NMR (400 MHz, MeOH-d4) δ ppm 5.46-5.50 (m, 1 H) 7.24-7.43 (m, 5 H) 7.44-7.56 (m, 3 H) 7.70-7.79 (m, 4 H) 7.95-8.00 (m, 1 H). MS (ESI+) calcd for C19 H15N5O2S 377.0946, found 377.0946.

reactant | 3-phenylbenzenesulfonylchloride | 0.055 mmol, 14 mg | C1(=CC=CC=C1)C=1C=C(C=CC1)S(=O)(=O)Cl | C12H9ClO2S
reactant | 5-(3-aminophenyl)tetrazole | 0.05 mmol, 8 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | N-[3-(1H-Tetrazol-5-yl)phenyl]biphenyl-3-sulfonamide | 5.7 mg, 30% | N1N=NN=C1C=1C=C(C=CC1)NS(=O)(=O)C=1C=C(C=CC1)C1=CC=CC=C1 | C19H15N5O2S
